US20010023238A1
(R,R)-N-[4-(Diethylamino)salicylidene]-N′-(4-methoxysalicylidene)-1,2-cyclohexanediamine
To a suspension of 2.5 g (8.64 mmol) of (R,R)-N-mono[4-(diethylamino)salicylidene]-1,2-cyclohexanediamine in 200 ml of ethanol is added dropwise over the course of 45 minutes at room temperature a solution of 1.3 g (8.64 mmol) of 4-methoxysalicylaldehyde in 200 ml of ethanol. The reaction solution is heated at 60° C. for 4 h. After the reaction solution has been cooled to room temperature it is concentrated to dryness. The crude product obtained is purified by column chromatography (ethyl acetate/methanol 9:1). Yield: 500 mg (14%), reddish orange oil, which slowly crystallizes.

reactant | (R,R)-N-mono[4-(diethylamino)salicylidene]-1,2-cyclohexanediamine | 8.64 mmol, 2.5 g | C(C)N(C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N)=CC1)O)CC | C17H27N3O
reactant | 4-methoxysalicylaldehyde | 8.64 mmol, 1.3 g | COC=1C=C(C(C=O)=CC1)O | C8H8O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (R,R)-N-[4-(Diethylamino)salicylidene]-N′-(4-methoxysalicylidene)-1,2-cyclohexanediamine | C(C)N(C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N=CC=2C(O)=CC(=CC2)OC)=CC1)O)CC | C25H33N3O3
